US04443243
(a) 5-Methyl-2-propargyloxyphenylsulfonamide
A mixture of 24.3 g of 2-hydroxy-5-methylphenylsulfonamide, 36.0 g of potassium carbonate, 16.7 g of propargyl bromide and 500 ml of acetonitrile is stirred at 50° C. for 4.5 hours. The reaction mixture is then filtered, and concentrated by evaporation. The yield after recrystallisation from ethyl acetate is 23.9 g of 5-methyl-2-propargyloxyphenylsulfonamide, m.p. 169°-170° C.

reactant | 2-hydroxy-5-methylphenylsulfonamide | 24.3 g | OC1=C(C=C(C=C1)C)S(=O)(=O)N | C7H9NO3S
reactant | potassium carbonate | 36.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 16.7 g | C(C#C)Br | C3H3Br
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 5-Methyl-2-propargyloxyphenylsulfonamide | CC=1C=CC(=C(C1)S(=O)(=O)N)OCC#C | C10H11NO3S
